US07884107B2
1-Benzyl-3-piperidone HCl salt hydrate (33 g, 0.135 mol) was suspended in methylene chloride (200 mL), and triethylamine (21 mL, 0.15 mol) was added to the suspension; which was stirred for three hours. The resultant mixture was washed with H2O (200 mL×2) and 300 mL of brine, then dried over magnesium sulfate, filtered, and the methylene chloride was removed to give 1-Benzyl-3-piperidone.

reactant | 1-Benzyl-3-piperidone HCl salt hydrate | 0.135 mol, 33 g | O.Cl.C(C1=CC=CC=C1)N1CC(CCC1)=O
reactant | triethylamine | 0.15 mol, 21 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-3-piperidone | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
